US06624320B2
(a) Synthesis of 2-(trifluoromethanesulfonyl)oxy-bromobenzene (5)
Into a four-neck flask was weighed 250.00 g (1.445 mol) of 2-bromophenol, and the atmosphere of the reaction vessel fitted with a thermometer, a condenser tube, and a dropping funnel with a pressure-equalizing tube was completely replaced with nitrogen. Thereto were added 1,500 mL of anhydrous methylene chloride and 171.40 g (2.168 mol) of pyridine, followed by cooling to 0° C. After the dropwise addition of 448.45 g (1.590 mol) of trifluoromethanesulfonic anhydride over a period of 2 hours, the whole was stirred at room temperature for 2 hours. The resulting mixed solution was poured into 500 mL of 2N hydrochloric acid aqueous solution, the mixture was stirred at room temperature for 30 minutes, and then the layers were separated from each other. The resulting organic layer was washed with water and saturated saline and dried over anhydrous magnesium, and then the solvent was removed by evaporation under reduced pressure. The residue was purified by distillation under reduced pressure to obtain the title compound (425.32 g, a colorless oily substance). Yield 96.5%.

reactant | 2-bromophenol | 1.445 mol, 250.00 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | pyridine | 2.168 mol, 171.40 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.590 mol, 448.45 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 2N, 500 mL | Cl | ClH
solvent | methylene chloride | 1,500 mL | C(Cl)Cl | CH2Cl2
product | 2-(trifluoromethanesulfonyl)oxy-bromobenzene | Yield 96.5% | FC(S(=O)(=O)OC1=C(C=CC=C1)Br)(F)F | C7H4BrF3O3S
